US04393228
To a solution of 1.0 g (0.0034 mole) of dicyclohexyl epoxysuccinate dissolved in 30 ml of dimethylformamide, 2 ml of aqueous 1 N potassium hydroxide solution was added dropwise while being stirred and cooled at 0° C. After 10 min., the mixture was filtered. Then, to the solution, 400 ml of acetone was added and the mixture was allowed to stand for a while. The resulting crystals were recrystallized from water-acetone to give cyclohexyl potassium epoxysuccinate (EP-2) as colorless needles. Yield 0.74 g (74%), m.p. 188°-190° C.

reactant | dicyclohexyl epoxysuccinate | 0.0034 mole, 1.0 g | O1C(C(=O)OC2CCCCC2)C1C(=O)OC1CCCCC1 | C16H24O5
reactant | potassium hydroxide | 1 N | [OH-].[K+]
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | cyclohexyl potassium epoxysuccinate | O1C(C(=O)O)C1C(=O)O.C1(CCCCC1)[K] | InChI=1S/C6H11.C4H4O5.K/c1-2-4-6-5-3-1;5-3(6)1-2(9-1)4(7)8;/h1H,2-6H2;1-2H,(H,5,6)(H,7,8);
